US05360802
Step 5: 3(R,S)-Amino-5-cyclopentyl-1,3-dihydro-1-ethyl-2H-1,4-benzodiazepin-2-one
5-Cyclopentyl-1,3-dihydro-1-ethyl-3(R,S)[(benzyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one (0.5 g, 1.23 mmol) was dissolved in formic acid/methanol (50 ml of a 4.5% (v/v) solution), and added, over 5 min, to a stirred suspension of 10% palladium on carbon (200 mg, 40% (w/w)) in formic acid/methanol (10 ml). After 10 min the catalyst was removed by filtration, washed with methanol and acetone and the flitrate concentrated. The residue was partitioned between ethyl acetate (100 ml) and 10% sodium carbonate solution (100 ml). The organic phase was separated, dried (Na2SO4) and evaporated to give a clear oil which was used without further purification.

reactant | 5-Cyclopentyl-1,3-dihydro-1-ethyl-3(R,S)[(benzyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one | 1.23 mmol, 0.5 g | C1(CCCC1)C1=NC(C(N(C2=C1C=CC=C2)CC)=O)NC(=O)OCC2=CC=CC=C2 | C24H27N3O3
solvent | formic acid methanol | C(=O)O.CO
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
solvent | formic acid methanol | 10 ml | C(=O)O.CO
product | 3(R,S)-Amino-5-cyclopentyl-1,3-dihydro-1-ethyl-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1CCCC1)C=CC=C2)CC)=O | C16H21N3O
